US07745641B2
In a similar manner to Step 2 of Example 1, 7-amino-4-bromoisoindolinone (250 mg, 1.10 mmol) was dissolved in acetonitrile (15 mL), and the solution was treated with phenylboronic acid (402 mg, 3.30 mmol), palladium acetate (20 mg, 0.088 mmol), tri(o-tolyl)phosphine (53.6 mg, 0.176 mmol) and triethylamine (1.53 mL, 11.0 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=15/1, chloroform/acetonitrile=6/1) to obtain 7-amino-4-phenylisoindolinone (219 mg, yield 89%).

reactant | 7-amino-4-bromoisoindolinone | 1.10 mmol, 250 mg | NC=1C=CC(=C2CNC(C12)=O)Br | C8H7BrN2O
reactant | phenylboronic acid | 3.30 mmol, 402 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tri(o-tolyl)phosphine | 0.176 mmol, 53.6 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 11.0 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.088 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-amino-4-phenylisoindolinone | 219 mg, yield 89% | NC=1C=CC(=C2CNC(C12)=O)C1=CC=CC=C1 | C14H12N2O
